US06281355B1
A solution of 19.46 g of potassium hydroxide in 40 ml of water was added to a solution of 21.63 g of ethyl 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxylate in 100 ml of ethanol. After reflux under heating for 2 hours, the reaction solution was adjusted to pH 3 with conc. hydrochloric acid, and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethanol-hexane to give 19.94 g of 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxylic acid.

reactant | potassium hydroxide | 19.46 g | [OH-].[K+]
reactant | ethyl 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxylate | 21.63 g | C1=CC=CC2=C1C=1NC3=CC=CC=C3C1C(S2)C(=O)OCC | C18H15NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxylic acid | 19.94 g | C1=CC=CC2=C1C=1NC3=CC=CC=C3C1C(S2)C(=O)O | C16H11NO2S
